US20010011090A1
Methanesulfonyl chloride (80 mg) was added to a mixture of ethyl 1-(4-aminophenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylate (150 mg), triethylamine (76 mg) and THF (2 ml) under ice-cooling, followed by stirring at room temperature for 4 hours. Thereafter, the same treatment of Example 2 was carried out to give ethyl 1-(4-methanesulfonylaminophenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylate (29 mg) as a colorless solid.

reactant | Methanesulfonyl chloride | 80 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 1-(4-aminophenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylate | 150 mg | NC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C13H12F3N3O2
reactant | triethylamine | 76 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | ethyl 1-(4-methanesulfonylaminophenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylate | 29 mg | CS(=O)(=O)NC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C14H14F3N3O4S
